US06468995B1
To a suspension of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (2.37 g, 3.51 m mol) in a mixture of dichloromethane (12 ml) and anisole (2.4 ml) was added trifluoroacetic acid (4.8 ml) at 5° C. and the mixture was stirred at the same temperature for 2 hours. The mixture was poured into IPE (300 ml) and the precipitates were collected by filtration, washed with IPE and dried in vacuo. The powder was suspended in a mixture of water (150 ml) and methanol (7.5 ml), and ammonium chloride (563 mg, 10.5 m mol) was added thereto. The mixture was stirred at room temperature with keeping the pH to 8 by addition of saturated NaHCO3 aqueous solution. The mixture was adjusted to pH ca. 6 by addition of 6N HCl and by evaporated in vacuo. The residue was adjusted to pH 3.5 by addition of 6N HCl and chromatographed on HP-20 (80 ml) and eluted with 5% aqueous IPA. The eluent was lyophilized and the crude product was purified by preparative HPLC to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylic acid (295 mg).

reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 2.37 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)=O | C33H28N6O6S3
reactant | trifluoroacetic acid | 4.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | anisole | 2.4 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylic acid | 295 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)O)C1=O)=N/O | C18H16N6O5S3
